US06900216B2
A mixture of 2-bromo-1-(4-methylbenzo[b]thiophen-2-yl)propan-1-one (0.27 g), 2-imidazolidinethione (0.1 g), acetic acid (2 ml) and ethanol (4 ml) was heated under reflux for 3 hours, then cooled to ambient temperature. The solvents were removed in vacuo and the residue was triturated with ether (2×1 ml). The resulting solid was collected by filtration, washed with ethanol (2 ml) and dried in vacuo at 60° C. for 2 hours to give 2-methyl-3-(4-methylbenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (0.3 g) as a cream solid, m.p. 201-204° C.

reactant | 2-bromo-1-(4-methylbenzo[b]thiophen-2-yl)propan-1-one | 0.27 g | BrC(C(=O)C1=CC2=C(S1)C=CC=C2C)C | C12H11BrOS
reactant | 2-imidazolidinethione | 0.1 g | N1C(NCC1)=S | C3H6N2S
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-methyl-3-(4-methylbenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.3 g | Br.CC1=C(N2C(S1)=NCC2)C2=CC1=C(S2)C=CC=C1C | InChI=1S/C15H14N2S2.BrH/c1-9-4-3-5-12-11(9)8-13(19-12)14-10(2)18-15-16-6-7-17(14)15;/h3-5,8H,6-7H2,1-2H3;1H
